US08258158B2
Preparation of Starting Material, (rac)-methyl-[4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-amine
This material was prepared from (rac)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine by, first an standard methoxycarbonylation reaction with dimethyl dicarbonate in methylene chloride (at RT and 12 h stirring) followed by reduction with LiAlH4 according to standard literature procedures.

reactant | (rac)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine | FC(C(OC1=CC=C(C=C1)N)C)(F)F | C9H10F3NO
reactant | dimethyl dicarbonate | C(=O)(OC)OC(=O)OC | C4H6O5
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (rac)-methyl-[4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-amine | CNC1=CC=C(C=C1)OC(C(F)(F)F)C | C10H12F3NO
